US09212182B2
A vial was charged with (E)-ethyl 3-(5-bromo-2-chloropyridin-3-yl)acrylate (660 mg, 2.272 mmol), phenylmethanethiol (296 mg, 2.385 mmol), Xantphos (131 mg, 0.227 mmol), Pd2(dba)3 (104 mg, 0.114 mmol), 1,4-dioxane (9086 μl), and Hunig's base (793 μl, 4.54 mmol). The vial was purged with argon and the mixture was heated at 80° C. for 1 h. Water and EtOAc were added, and the layers were separated. The organic portion was dried, filtered and concentrated. The crude material was purified by silica gel chromatography, 0-50% EtOAc/heptane to provide (E)-ethyl 3-(5-(benzylthio)-2-chloropyridin-3-yl)acrylate (790 mg, 2.366 mmol, 104% yield) as a yellow oil. m/z (ESI) 334.0 (M+H)+.

reactant | (E)-ethyl 3-(5-bromo-2-chloropyridin-3-yl)acrylate | 2.272 mmol, 660 mg | BrC=1C=C(C(=NC1)Cl)/C=C/C(=O)OCC | C10H9BrClNO2
reactant | phenylmethanethiol | 2.385 mmol, 296 mg | C1(=CC=CC=C1)CS | C7H8S
reactant | Hunig's base | 4.54 mmol, 793 μl | CCN(C(C)C)C(C)C | C8H19N
catalyst | Pd2(dba)3 | 0.114 mmol, 104 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.227 mmol, 131 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | 1,4-dioxane | 9086 μl | O1CCOCC1 | C4H8O2
product | (E)-ethyl 3-(5-(benzylthio)-2-chloropyridin-3-yl)acrylate | 2.366 mmol, 790 mg, 104% yield | C(C1=CC=CC=C1)SC=1C=C(C(=NC1)Cl)/C=C/C(=O)OCC | C17H16ClNO2S
